US05449810
The above pentene derivative (9.0 g, 25 mmols) and acetic anhydride (3.0 g, 30 mmols) are dissolved in ether (200 ml), followed by dropwise adding pyridine (5 ml), while stirring the solution under ice cooling, stirring the reaction liquid under ice cooling for one hour, elevating the temperature up to room temperature, stirring for 3 hours, pouring the reaction mixture into ice water after completion of the reaction, extracting with toluene (150 ml), washing the organic layer with water, drying over anhydrous magnesium sulfate and concentrating under reduced pressure to obtain 5-(4-(4-propylphenyl)phenyl)cyclohexyl)-3-acetyloxy-1-pentene pale yellow oil.

reactant | pentene | 25 mmols, 9.0 g | C=CCCC | C5H10
reactant | acetic anhydride | 30 mmols, 3.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 200 ml | CCOCC | C4H10O
product | 3-acetyloxy-1-pentene | C(C)(=O)OC(C=C)CC | C7H12O2
